US09085555B2
3-Bromo-1H-indazole-6-carboxylic acid benzyl ester
A solution of 3-bromo-indazole-1,6-dicarboxylic acid 6-benzyl ester 1-tert-butyl ester (2.05 g, 4.75 mmol) and TFA (3.66 mL, 47.5 mmol) in CH2Cl2 (30 mL) was stirred at RT for 16 h. A saturated aqueous solution of NaHCO3 was added, the layers were separated and the aqueous layer was extracted with CH2Cl2 (×3). The combined organic extracts were dried (Na2SO4), filtered and concentrated and the material thus obtained was used without further purification in the next step. MS (UPLC/MS): 331.2/333.2 [M+H]+, 329.3/331.2 [M−H]−; tR (UPLC conditions m): 1.18 min.

reactant | 3-bromo-indazole-1,6-dicarboxylic acid 6-benzyl ester 1-tert-butyl ester | 4.75 mmol, 2.05 g | C(C)(C)(C)OC(=O)N1N=C(C2=CC=C(C=C12)C(=O)OCC1=CC=CC=C1)Br | C20H19BrN2O4
reactant | TFA | 47.5 mmol, 3.66 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | 3-Bromo-1H-indazole-6-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1=CC=C2C(=NNC2=C1)Br | C15H11BrN2O2
